US07696352B2
5-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide (108)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide (118 mg, 0.27 mmol), 2-hydroxypyridine (50 mg, 0.53 mmol), 8-hydroxyquinoline (14 mg, 0.097 mmol) and K2CO3 (120 mg, 0.87 mmol) in DMSO (2 mL) was degassed with Argon before being charged with CuI (19 mg, 0.10 mmol). The mixture in a sealed tube was heated at 130° C. for 4 h. It was then purified by HPLC to give the titled compound (20 mg). MS 410.0 and 412.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide | 0.27 mmol, 118 mg | ClC1=CC=C(S1)C(=O)NCC1=CN(C=C1)C1=CC=C(C=C1)I | C16H12ClIN2OS
reactant | 2-hydroxypyridine | 0.53 mmol, 50 mg | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 0.097 mmol, 14 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 0.87 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.10 mmol, 19 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-pyrrol-3-yl)methyl)thiophene-2-carboxamide | 20 mg | ClC1=CC=C(S1)C(=O)NCC1=CN(C=C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O | C21H16ClN3O2S
